US05616590
Preparation of N,N-diethyl-4-azido-3-(N',N'-diethylthiocarbamoyloxy)picolinamide:
378 ml of n-butyllithium (1.6M in hexane) are added to a solution of 88.2 g (0.624 mol) of 2,2,6,6-tetramethylpiperidine in 11 of THF at -20° C. under argon and the mixture is stirred at this temperature for 1 hour. The mixture is then cooled to -100° C., and a solution of 104.4 g (0.337 mol) of N,N-diethyl-3-(N',N'-diethylthiocarbamoyloxy)picolinamide in 300 ml of THF is added dropwise in such a way that the temperature does not exceed -90° C. After the mixture has been stirred at -95° C for 1 hour, it is again cooled to -102° C, and a solution of 119.3 g (0.605 mol) of tosyl azide in 200 ml of THF, cooled to -20° C., is added in the course of 30 seconds. After the mixture has been stirred at -80° C. for 15 minutes, 400 ml of a saturated NH4Cl solution are added, the mixture is heated to 0° C., and the aqueous phase is separated off and washed with 500 ml of diethyl ether and the organic phases are washed once with 200 ml of saturated NH4Cl solution and twice with in each case 150 ml of saturated NaCl solution, dried over Na2SO4 and concentrated in vacuo. The brown oil is taken up in 1.2 l of hexane under hot conditions, the mixture is slowly cooled to 0° C., with stirring, and the solid substance is filtered off and dried. Yield: 109.0 g of beige-brown crystals which are employed directly in the subsequent step.

reactant | n-butyllithium | 1.6M, 378 ml | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 0.624 mol, 88.2 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | N,N-diethyl-3-(N',N'-diethylthiocarbamoyloxy)picolinamide | 0.337 mol, 104.4 g | C(C)N(C(C1=NC=CC=C1OC(N(CC)CC)=S)=O)CC | C15H23N3O2S
reactant | tosyl azide | 0.605 mol, 119.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
reactant | NH4Cl | 400 ml | [NH4+].[Cl-]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | N,N-diethyl-4-azido-3-(N',N'-diethylthiocarbamoyloxy)picolinamide | C(C)N(C(C1=NC=CC(=C1OC(N(CC)CC)=S)N=[N+]=[N-])=O)CC | C15H22N6O2S
